US07291643B2
Methanesulfonyl chloride (0.05 mL, 0.65 mmol) was added dropwise to a solution of 5-[4-amino-3-(trifluoromethoxy)phenyl]-1-methyl-1H-pyrrole-2-carbonitrile (0.16 g, 0.56 mmol) in dry pyridine (2.0 mL). The solution was heated to 50° C. overnight. The solution was cooled to room temperature and pre-adsorbed onto the Celite™ reagent. The crude product was purified via Isco chromatography (the Redisep® column, silica, gradient 5-30% ethyl acetate in hexane) to afford 0.1 g (50%) of N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2-(trifluoromethoxy)phenyl]methanesulfonamide.

reactant | Methanesulfonyl chloride | 0.65 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-[4-amino-3-(trifluoromethoxy)phenyl]-1-methyl-1H-pyrrole-2-carbonitrile | 0.56 mmol, 0.16 g | NC1=C(C=C(C=C1)C1=CC=C(N1C)C#N)OC(F)(F)F | C13H10F3N3O
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)-2-(trifluoromethoxy)phenyl]methanesulfonamide | 0.1 g, 50% | C(#N)C1=CC=C(N1C)C1=CC(=C(C=C1)NS(=O)(=O)C)OC(F)(F)F | C14H12F3N3O3S
